US08309581B2
c) 3-(4-{5,6-Difluoro-2-[2-(4-methoxy-benzyloxy)-pyridin-3-yl]-benzoimidazol-1-ylmethyl}-phenyl)-propionic acid methyl ester
The title compound was prepared in analogy to Example 4, intermediate, from 3-{4-[2-(2-chloro-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-phenyl}-propionic acid methyl ester and (4-methoxy-phenyl)-methanol (CAS Reg. No. 105-13-5). Colorless sticky solid (81%). MS (Turbo Spray): m/z=544.1 (M+H).

reactant | 3-{4-[2-(2-chloro-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC=CC2)Cl)=O | C23H18ClF2N3O2
reactant | (4-methoxy-phenyl)-methanol | COC1=CC=C(C=C1)CO | C8H10O2
product | 3-(4-{5,6-Difluoro-2-[2-(4-methoxy-benzyloxy)-pyridin-3-yl]-benzoimidazol-1-ylmethyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC=CC2)OCC2=CC=C(C=C2)OC)=O | C31H27F2N3O4
